US07166598B2
Di-tert-butyl dicarbonate (2.55 g) was added to a solution of 4-hydroxy-3-methoxy-D-phenylalanine hydrochloride (2.2 g) and triethylamine (2.9 ml) in a mixture of acetone (25 ml) and water (25 ml). After being stirred at room temperature for 5 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure to give N-tert-butyloxycarbonyl-4-hydroxy-3-methoxy-D-phenylalanine (2.6 g) as an oil.

reactant | Di-tert-butyl dicarbonate | 2.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-hydroxy-3-methoxy-D-phenylalanine hydrochloride | 2.2 g | Cl.OC1=C(C=C(C[C@@H](N)C(=O)O)C=C1)OC
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
product | N-tert-butyloxycarbonyl-4-hydroxy-3-methoxy-D-phenylalanine | 2.6 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC(=C(C=C1)O)OC)C(=O)O | C15H21NO6
